US07034039B2
3-(Aminomethyl)-2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-3-yl)-4-phenyl-1(2H)-isoquinolinone
To tert-butyl[2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-3-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.20 g, 0.41 mmol) was added a solution (4 mL) of 4N hydrogen chloride in ethyl acetate and the mixture was stirred at room temperature for 17 h. The reaction mixture was concentrated under reduced pressure and to the residue was added diisopropyl ether (5 mL). The precipitated powder was collected by filtration. To this powder was added saturated aqueous sodium hydrogencarbonate (30 mL) and the mixture was extracted twice with a solution (25 mL) of ethyl acetate-tetrahydrofuran (1:1). The organic layers were combined and the mixture was washed with saturated brine (25 mL), dried over anhydrous magnesium sulfate (15 g) and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=20:1, (v/v)) and recrystallized from n-hexane-ethyl acetate (5:1) to give the title compound (0.11 g, 72%) as pale-yellow crystals.

reactant | tert-butyl[2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-3-yl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.41 mmol, 0.20 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)N1COC(=N1)C)=O)CC(C)C)=O | C28H34N4O4
reactant | hydrogen chloride | 4N, 4 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Aminomethyl)-2-isobutyl-6-(5-methyl-1,3,4-oxadiazol-3-yl)-4-phenyl-1(2H)-isoquinolinone | 0.11 g, 72% | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)N1COC(=N1)C)=O)CC(C)C | C23H26N4O2
